* \\filur02.it.liu.se\students\maxha165\Documents\GitHub\Plantbed-Irrigation-System\Simulation\Astable Clock.asc
R1 N001 N003 4.7k
R2 N003 N005 4.7k
R3 N005 0 4.7k
RA N001 Discharge 8.2k
V§BAT N001 0 9
Control N003 0 10n
Q1 Discharge N004 0 0 2N3904
A1 0 R 0 ~Q 0 Output 0 0 OR Vhigh=5
A2 0 S 0 Output 0 ~Q 0 0 OR Vhigh=5
Ct Trigger 0 100n
RQ ~Q N004 10k
V§Regulator N002 0 5
RU2 N002 S 10k
RU1 N002 R 10k
RB Discharge Trigger 8.2k
XU1 Trigger N003 N001 0 R LM339
XU2 N005 Trigger N001 0 S LM339
.model NPN NPN
.model PNP PNP
.lib C:\Users\maxha165\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0.01
.ic V(Threshold)=0 V(Trigger)=0
.lib LM339.sub
.backanno
.end
